### PR TITLE
[Merged by Bors] - feat(Algebra/Homology/Embedding): the homology of truncLE

### PR DESCRIPTION
**Pull request by joelriou**
Given an embedding `e` of complex shapes that satisfies `IsTruncLE`, we show that the morphism `K.ιTruncLE e : K.truncLE e ⟶ K` induces a quasi-isomorphism in degree `e.f i` for all `i`.

This is the dual result of #19572.

---

- [x] depends on: #19572
- [x] depends on: #19570
- [x] depends on: #19544
- [x] depends on: #19543
- [x] depends on: #19203
- [x] depends on: #18502
- [x] depends on: #19198
- [x] depends on: #19550
- [x] depends on: #19559
- [x] depends on: #19560

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/Opposite.lean [hunk 1]
```diff
@@ -221,6 +222,80 @@ instance (K : HomologicalComplex Vᵒᵖ c) (i : ι) [K.HasHomology i] :
...
+
+lemma ExactAt.op {K : HomologicalComplex V c} {i : ι} (h : K.ExactAt i) :
+    K.op.ExactAt i :=
+  ShortComplex.Exact.op h
+
+lemma ExactAt.unop {K : HomologicalComplex Vᵒᵖ c} {i : ι} (h : K.ExactAt i) :
+    K.unop.ExactAt i :=
+  ShortComplex.Exact.unop h
+
+lemma exactAt_op_iff (K : HomologicalComplex V c) {i : ι} :
```
[the remark this answers is not in the document]
Comment (joelriou) [reply Mathlib/Algebra/Homology/Opposite.lean:284]: Yes, we can make it so.

File: Mathlib/Algebra/Homology/Opposite.lean [hunk 2]
```diff
@@ -221,6 +222,82 @@ instance (K : HomologicalComplex Vᵒᵖ c) (i : ι) [K.HasHomology i] :
 
 variable {V c}
 
+lemma quasiIsoAt_opFunctor_map_iff
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/Opposite.lean:225]: I think these could also be good `@[simp]` lemmas. But I'll leave that up to you.
```suggestion
@[simp]
lemma quasiIsoAt_opFunctor_map_iff
```

File: Mathlib/Algebra/Homology/Opposite.lean [hunk 3]
```diff
@@ -221,6 +222,82 @@ instance (K : HomologicalComplex Vᵒᵖ c) (i : ι) [K.HasHomology i] :
...
+    {K L : HomologicalComplex V c} (φ : K ⟶ L) (i : ι)
+    [K.HasHomology i] [L.HasHomology i] :
+    QuasiIsoAt ((opFunctor _ _).map φ.op) i ↔ QuasiIsoAt φ i := by
+  simp only [quasiIsoAt_iff]
+  exact ShortComplex.quasiIso_opMap_iff ((shortComplexFunctor V c i).map φ)
+
+lemma quasiIsoAt_unopFunctor_map_iff
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/Opposite.lean:232]:
```suggestion
@[simp]
lemma quasiIsoAt_unopFunctor_map_iff
```

File: Mathlib/Algebra/Homology/Opposite.lean [hunk 4]
```diff
@@ -221,6 +222,82 @@ instance (K : HomologicalComplex Vᵒᵖ c) (i : ι) [K.HasHomology i] :
...
+  rw [quasiIsoAt_opFunctor_map_iff]
+  infer_instance
+
+instance {K L : HomologicalComplex Vᵒᵖ c} (φ : K ⟶ L) (i : ι)
+    [K.HasHomology i] [L.HasHomology i] [QuasiIsoAt φ i] :
+    QuasiIsoAt ((unopFunctor _ _).map φ.op) i := by
+  rw [quasiIsoAt_unopFunctor_map_iff]
+  infer_instance
+
+lemma quasiIso_opFunctor_map_iff
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/Opposite.lean:251]:
```suggestion
@[simp]
lemma quasiIso_opFunctor_map_iff
```

File: Mathlib/Algebra/Homology/Opposite.lean [hunk 5]
```diff
@@ -221,6 +222,82 @@ instance (K : HomologicalComplex Vᵒᵖ c) (i : ι) [K.HasHomology i] :
...
+    {K L : HomologicalComplex V c} (φ : K ⟶ L)
+    [∀ i, K.HasHomology i] [∀ i, L.HasHomology i] :
+    QuasiIso ((opFunctor _ _).map φ.op) ↔ QuasiIso φ := by
+  simp only [quasiIso_iff, quasiIsoAt_opFunctor_map_iff]
+
+lemma quasiIso_unopFunctor_map_iff
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/Opposite.lean:257]:
```suggestion
@[simp]
lemma quasiIso_unopFunctor_map_iff
```

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
